US05225402
1-(4-Piperidinyl)-3,4-dihydrocarbostyril (0.2 g) is added to conc. sulfuric acid (5 ml) and thereto is added fuming nitric acid (0.1 ml) under ice cooling. The mixture is stirred at room temperature for 30 minutes, and then the reaction mixture is poured into ice-water. The mixture is basified and extracted with dichloromethane. The solvent is concentrated to give 6-nitro-1-(4-piperidinyl)-3,4-dihydrocarbostyril (0.2 g).

reactant | 1-(4-Piperidinyl)-3,4-dihydrocarbostyril | 0.2 g | N1CCC(CC1)N1C(=O)CCC2=CC=CC=C12 | C14H18N2O
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 0.1 ml | [N+](=O)(O)[O-] | HNO3
product | 6-nitro-1-(4-piperidinyl)-3,4-dihydrocarbostyril | 0.2 g | [N+](=O)([O-])C=1C=C2CCC(N(C2=CC1)C1CCNCC1)=O | C14H17N3O3
